US07632838B2
2-{4-[(3,4-dichlorophenyl)sulfonyl]piperidin-1-yl}-5-(trifluoromethyl)pyridine
Using the procedure from Example 7A, Step 7E, 4-[(3,4-dichlorophenyl)sulfonyl]piperidine (200 mg, 0.68 mmol) was reacted with 2-chloro-5-(trifluoromethyl)pyridine (172 mg, 0.96 mmol) to afford the title compound (110 mg), a white solid, in 37% yield.

reactant | 4-[(3,4-dichlorophenyl)sulfonyl]piperidine | 0.68 mmol, 200 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)C1CCNCC1 | C11H13Cl2NO2S
reactant | 2-chloro-5-(trifluoromethyl)pyridine | 0.96 mmol, 172 mg | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
product | 2-{4-[(3,4-dichlorophenyl)sulfonyl]piperidin-1-yl}-5-(trifluoromethyl)pyridine | 110 mg, 37% yield | ClC=1C=C(C=CC1Cl)S(=O)(=O)C1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F | C17H15Cl2F3N2O2S
